US04777283
138.6 g of 2-ethylhexyl carbamate were initially introduced in melted form and 93 g of phosgene were passed into the melt at 80° C. within 3.25 hours, the gas outlet stream being passed through a reflux condenser cooled to -78° C. 800 g of chlorobenzene and 5.0 g of methylstearylformamide were then added, the mixture was heaLed to 120° C., and 48 g of phosgene were passed into the mixture within 3 hours. The mixture was stirred for a further 1 hour at 130° C. and excess phosgene was subsequently blown out using nitrogen. Subsequent distillation produced 135.5 g (=85% of theory) of 2-ethylhexyloxycarbonyl isocyanate having a boiling point of 45°-60° C. at 0.13-0.4 mbar.

reactant | 2-ethylhexyl carbamate | 138.6 g | C(N)(OCC(CCCC)CC)=O | C9H19NO2
reactant | phosgene | 93 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 48 g | C(=O)(Cl)Cl | CCl2O
catalyst | methylstearylformamide | 5.0 g | CCCCCCCCCCCCCCCCCCCNC=O | C20H41NO
solvent | chlorobenzene | 800 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2-ethylhexyloxycarbonyl isocyanate | 135.5 g, 85% | C(C)C(COC(=O)N=C=O)CCCC | C10H17NO3
